US07863302B2
2-(4-(5-Cyclopropyl-3-(2-fluoro-6-trifluoromethyl-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-4-methyl-thiazole-5-carboxylic acid
To a solution of 2-(4-(5-Cyclopropyl-3-(2-fluoro-6-trifluoromethyl-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-4-methyl-thiazole-5-carboxylic acid methyl ester (0.025 g, 0.046 mmol) in 1 mL of methanol and 1 mL of THF is added a solution of LiOH (0.011 g, 0.46 mmol) in water (11 mL). The reaction is heated to 55° C. for 30 minutes. The reaction is cooled, acidified with aqueous 1M HCl, and extracted with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, filtered, and evaporated to yield the title compound (24 mg, 99%). ES/MS m/e 533.0 (M+1).

reactant | 2-(4-(5-Cyclopropyl-3-(2-fluoro-6-trifluoromethyl-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-4-methyl-thiazole-5-carboxylic acid methyl ester | 0.046 mmol, 0.025 g | COC(=O)C1=C(N=C(S1)C1=C(C=C(C=C1)OCC=1C(=NOC1C1CC1)C1=C(C=CC=C1C(F)(F)F)F)C)C | C27H22F4N2O4S
reactant | LiOH | 0.46 mmol, 0.011 g | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 11 mL | O | H2O
product | 2-(4-(5-Cyclopropyl-3-(2-fluoro-6-trifluoromethyl-phenyl)-isoxazol-4-ylmethoxy)-2-methyl-phenyl)-4-methyl-thiazole-5-carboxylic acid | 24 mg, 99% | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1C(F)(F)F)F)COC1=CC(=C(C=C1)C=1SC(=C(N1)C)C(=O)O)C | C26H20F4N2O4S
